US07557114B2
(b) 5-Amino-6-trifluoromethyl-isoindole-1,3-dione
To a stirred solution of 2.14 mmol 4-fluoro-5-trifluoromethyl-phthalic acid in 7 ml N-methylpyrolidone was added 4.28 mmol urea and the mixture was at 140° C. for 2 h, and then at 160° C. for 4 h. The reaction mixture was then cooled to room temperature, diluted with ethyl acetate and washed sequentially with water and brine. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was triturated in ether/penane (1/1) to yield the title compound as a yellow solid. MS (m/e): 229.1 ([M−H]−, 100%)

reactant | 4-fluoro-5-trifluoromethyl-phthalic acid | 2.14 mmol | FC=1C=C(C(C(=O)O)=CC1C(F)(F)F)C(=O)O | C9H4F4O4
reactant | urea | 4.28 mmol | NC(=O)N | CH4N2O
reactant | N-methylpyrolidone | 7 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Amino-6-trifluoromethyl-isoindole-1,3-dione | NC=1C=C2C(NC(C2=CC1C(F)(F)F)=O)=O | C9H5F3N2O2
